US07410981B2
Ethyl 2-[[[(S)-5-methoxy-2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]sulfinyl]-1H-benzimidazol-1-yl]carbonyl](methyl)amino]ethyl carbonate
To a solution (10 mL) of (S)-5-methoxy-2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]sulfinyl]-1H-benzimidazole (1.34 g) synthesized by the method described in Example 1 of Japanese Patent Application under PCT laid-open under kohyo No. 10-504290 in tetrahydrofuran were added 2-[(chlorocarbonyl)(methyl)amino]ethyl ethyl carbonate (0.9 mL) obtained in Reference Example 34, triethylamine (1.08 mL) and 4-dimethylaminopyridine (0.010 g), and the mixture was stirred at 60° C. for 6 hrs. After concentration under reduced pressure, water (30 mL) was added to the residue and the mixture was extracted with ethyl acetate (50 mL). The ethyl acetate layer was washed with saturated brine (15 mL) and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, the residue was purified by basic silica gel column chromatography (eluted with ethyl acetate:hexane=1:2, then 1:1) to give a 3:2 mixture (0.92 g) of the title compound and ethyl 2-[[[(S)-6-methoxy-2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]sulfinyl]-1H-benzimidazol-1-yl]carbonyl](methyl)amino]ethyl carbonate as a pale-yellow amorphous solid.

reactant | (S)-5-methoxy-2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]sulfinyl]-1H-benzimidazole | 10 mL, 1.34 g | COC1=CC2=C(NC(=N2)[S@@](=O)CC2=NC=C(C(=C2C)OC)C)C=C1 | C17H19N3O3S
reactant | 2-[(chlorocarbonyl)(methyl)amino]ethyl ethyl carbonate | 0.9 mL | C(OCCN(C)C(=O)Cl)(OCC)=O | C7H12ClNO4
reactant | triethylamine | 1.08 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.010 g | CN(C1=CC=NC=C1)C | C7H10N2
product | Ethyl 2-[[[(S)-5-methoxy-2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]sulfinyl]-1H-benzimidazol-1-yl]carbonyl](methyl)amino]ethyl carbonate | 0.92 g | C(OCC)(OCCN(C)C(=O)N1C(=NC2=C1C=CC(=C2)OC)[S@@](=O)CC2=NC=C(C(=C2C)OC)C)=O | C24H30N4O7S
